US05977178
A solution of 2-t-butoxycarbonylamino-2-methylpropanol (5.0 g, 26.46 mmol) and rhodium(II)acetate (90 mg) in dichloroethane (500 mL) was heated to 80° C. Ethyldiazoacetate (4.0 g, 34.78 mmol) was slowly added over a period of 1 hr., and the mixture was stirred at reflux for 3 hr. Another 90 mg of rhodium(II)acetate was added and the mixture was refluxed for another 5 hr. The mixture was cooled overnight and 500 ml of saturated sodium bicarbonate was added, the yellow organic layer was separated and washed twice with saturated sodium bicarbonate (2×200 ml). The organic layer was dried over magnesium sulfate and concentrated in vacuo. The yellow oil was taken up in 200 ml of 1 M Lithium hydroxide in methanol:water (3:1) and stirred overnight. The solvent was removed in vacuo to a minimum and water was added (pH>9) and the mixture was washed with ether. Then 1M hydrogen chloride was added until pH<4 and the mixture was extracted with ethyl acetate, dried over magnesium sulfate and concentrated in vacuo to give 2.5 g (38%) of (2-t-butoxycarbonylamino-2-methylpropoxy) acetic acid as a clear oil.

reactant | 2-t-butoxycarbonylamino-2-methylpropanol | 26.46 mmol, 5.0 g | C(C)(C)(C)OC(=O)NC(CO)(C)C | C9H19NO3
reactant | Ethyldiazoacetate | 34.78 mmol, 4.0 g | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 500 mL | ClC(C)Cl | C2H4Cl2
catalyst | rhodium(II)acetate | 90 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
catalyst | rhodium(II)acetate | 90 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | (2-t-butoxycarbonylamino-2-methylpropoxy) acetic acid | 2.5 g, 38% | C(C)(C)(C)OC(=O)NC(COCC(=O)O)(C)C | C11H21NO5
